* C:\Users\rlatk\Desktop\2021_TIA_with_OPA827\OurDream\simul noise test.asc
XU1 0 N001 Vcc Vdd Vout ADA4625-1
R1 N001 Vin 10Meg
R2 0 N001 100k
V1 Vin 0 SINE(0 1m 1k)
V2 Vcc 0 15
V3 0 Vdd 15
R3 NC_01 NC_02 1Meg
V4 Vex 0 1
R4 Vout 0 1k
R5 Vout N001 10Meg
R6 NC_03 NC_04 1k
.tran 0.01
.lib ADA4625-1.lib
.backanno
.end
